US08633218B2
3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene (Intermediate Compound)
5-Methoxy-benzo[b]thiophene (3.20 g, 19.5 mmol) was solved in diethylether (50 ml). n-BuLi (8.58 ml, 21.45 mmol) was added to the mixture at a temperature below 20° C. The cooling was removed and the mixture was allowed to stir for 30 minutes. The mixture was cooled to −70° C. Tropinone (2.71 g, 19.5 mmol) solved in diethylether (50 ml) was added during 20 minutes. The temperature was kept below −60° C. Precipitation occurred. The mixture was stirred for 2 hours. Aqueous sodium hydroxide (20 ml, 1 M) was added. The mixture was stirred for 10 minutes. The solid intermediate product (endo/exo-3-(5-methoxy-benzo-[b]thiophen-2-yl)-8-methyl-8-aza-bicyclo[3.2.1]octan-3-ol) was filtered and washed with water and diethylether. Yield 3.97 g (67%). The intermediate product was combined with acetic acid (20 ml) and hydrochloric acid (7 ml). The mixture was stirred at reflux for 1 hour. The mixture was poured out on ice. The mixture was made alkaline by adding ammonia and extracted with dichloromethane and washed with water. The crude mixture was purified by column chromatography using a mixture of dichloromethane, methanol and aqueous ammonia (6:1:1%). Yield 2.28 g, (61%).

reactant | 5-Methoxy-benzo[b]thiophene | 19.5 mmol, 3.20 g | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
reactant | n-BuLi | 21.45 mmol, 8.58 ml | [Li]CCCC
reactant | Tropinone | 19.5 mmol, 2.71 g | CN1C2CCC1CC(=O)C2 | C8H13NO
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | 3-(5-Methoxy-benzo[b]thiophen-2-yl)-8-methyl-8-aza-bicyclo[3.2.1]oct-2-ene | COC1=CC2=C(SC(=C2)C2=CC3CCC(C2)N3C)C=C1 | C17H19NOS
